US04678781
The starting material was obtained by allowing a mixture of 2-amino-4-chloropyridine and excess methyl iodide (no solvent) to stand at ambient temperature for 2 days to give 2-amino-4-chloro-1-methylpyridinium iodide as a solid, n.m.r. in d6DMSO: 3.6(s, 3H); 6.6-6.7(m, 1H); 7.0(d, 1H); 7.9(d, 1H).

reactant | 2-amino-4-chloropyridine | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | methyl iodide | CI | CH3I
product | 2-amino-4-chloro-1-methylpyridinium iodide | [I-].NC1=[N+](C=CC(=C1)Cl)C | InChI=1S/C6H7ClN2.HI/c1-9-3-2-5(7)4-6(9)8;/h2-4,8H,1H3;1H
